US05693652
2-(1-Imidazoyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
103 mg of imidazole was added to a suspension of 68 mg of sodium hydride in 6 ml of dimethylformamide at 0° C. The obtained mixture was stirred for 10 minutes. 500 mg of 2,6-dichloro-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline was added to the resulting mixture at room temperature. The mixture thus prepared was stirred at 100° C. for 20 minutes, followed by the addition of water. The crystals precipitated were recovered by filtration and washed with water and ethanol/acetone successively to give 325 mg of the title compound.

reactant | imidazole | 103 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 68 mg | [H-].[Na+]
reactant | 2,6-dichloro-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 500 mg | ClC1=NC=2C=CC(CC2C(=N1)NCC1=CC2=C(C=C1)OCO2)(Cl)Cl | C16H12Cl3N3O2
reactant | water | O | H2O
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(1-Imidazoyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 325 mg | N1(C=NC=C1)C(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C20H14ClN5O3
